US07205411B2
Following the same procedure as described in Example 1, (2-bromo-6-methyl-pyridin-3-yl)amine (200 mg, 1.07 mmol) reacted with (PPh3)2PdCl2 (37 mg, 0.05 mmol), Cul (10 mg, 0.05 mmol) and 3-ethynyl-pyridine (110 mg, 1.07 mmol) in triethylamine (1.6 ml). The crude residue was purified by flash chromatography (DCM-DCM/MeOH 97:3) to yield 100 mg (0.48 mmol, 49%) of (6-methyl-2-pyridin-3-ylethynyl-pyridin-3-yl)amine as a yellow powder. The hydrochloride of (6-methyl-2-pyridin-3-ylethynyl-pyridin-3-yl)amine was prepared as described in Example 1 to yield after trituration with pentane 145 mg (100%) of the title hydrochloride as a yellow solid.

reactant | (2-bromo-6-methyl-pyridin-3-yl)amine | 1.07 mmol, 200 mg | BrC1=NC(=CC=C1N)C | C6H7BrN2
reactant | 3-ethynyl-pyridine | 1.07 mmol, 110 mg | C(#C)C=1C=NC=CC1 | C7H5N
solvent | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
catalyst | (PPh3)2PdCl2 | 0.05 mmol, 37 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (6-methyl-2-pyridin-3-ylethynyl-pyridin-3-yl)amine | 0.48 mmol, 100 mg, 49% | CC1=CC=C(C(=N1)C#CC=1C=NC=CC1)N | C13H11N3
